US04812456
To a stirred solution of sodium bicarbonate (10 g) in 40 ml of dimethylformamide was added 2.5 g of 4-(4-fluorobenzoyl)piperidine in 40 ml of dimethylformamide, and 4.5 g of 10-(3-chloropropyl)-2-methylthiophenothiazine in 20 ml of dimethylformamide. The reaction mixture was stirred at 78° C. for four hours, cooled, and filtered. The filtrate was poured into water and extracted with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate, filtred and concentrated to an oil. The oil was purified by high pressure liquid chromatography on a silica gel column, utilizing ethyl acetate as the eluent. Concentration of the appropriate fractions yielded 2.97 g (36%) of 4-(4-fluorobenzoyl)-1-[3-(2-methylthio-10H-phenothiazin-10-yl)propyl]piperidine as an oil.

reactant | sodium bicarbonate | 10 g | C([O-])(O)=O.[Na+]
reactant | 4-(4-fluorobenzoyl)piperidine | 2.5 g | FC1=CC=C(C(=O)C2CCNCC2)C=C1 | C12H14FNO
reactant | 10-(3-chloropropyl)-2-methylthiophenothiazine | 4.5 g | ClCCCN1C2=CC=CC=C2SC=2C=CC(=CC12)SC | C16H16ClNS2
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4-(4-fluorobenzoyl)-1-[3-(2-methylthio-10H-phenothiazin-10-yl)propyl]piperidine | 2.97 g, 36% | FC1=CC=C(C(=O)C2CCN(CC2)CCCN2C3=CC=CC=C3SC=3C=CC(=CC23)SC)C=C1 | C28H29FN2OS2
